US05594135
To a stirred solution of 260 mg of (R)-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-2-[2-cyanoamino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanylmethyl]-5-methoxy-6-methyl-benzoic acid methyl ester in 50 ml of tetrahydrofuran were added 0.1 ml of 25% aqueous hydroxyacetone and 0.09 ml of IN sodium hydroxide solution. The suspension was stirred for 12 h at 40° C. After cooling, the mixture was diluted with 100 ml water and subsequently extracted with 200 ml ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel using ethyl acetate/hexane (1:1, v/v) as eluent, and the purified product was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 1 to yield (R)-3-hydroxy-5-methoxy-6-methyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(4-methyl-oxazol-2-ylamino)-ethylsulfanylmethyl]-benzoic acid methyl ester as a white powder.

reactant | (R)-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-2-[2-cyanoamino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanylmethyl]-5-methoxy-6-methyl-benzoic acid methyl ester | 260 mg | COC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)CSC[C@@H](C1=NC(=NO1)C)NC#N)=O | C25H38N4O5SSi
reactant | hydroxyacetone | 0.1 ml | OCC(C)=O | C3H6O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | (R)-3-hydroxy-5-methoxy-6-methyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(4-methyl-oxazol-2-ylamino)-ethylsulfanylmethyl]-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1C)OC)O)CSC[C@H](NC=1OC=C(N1)C)C1=NC(=NO1)C)=O | C20H24N4O6S
